US06867323B2
Preparation of (Z)-1-(1-Heptenyl)-1-methylsilacyclobutane (Z)-21
Neat DIBAL-H (1.93 mL, 1.52 g, d=0.789, 10.7 mmol, 1.2 equiv) was added to a solution of 1-(1-hexynyl)-1-methylsilacyclobutane (1.62 g, 9,0 mmol) in hexane (14 mL) and Et2O (9 mL) at 0° C. The mixture was stirred for 3 h at 0° C., 9 h at rt, and then was diluted with CH2Cl2 (40 mL). Solid NaF (3.21 g, 76.4 mmol, 8.5 equiv) was added, followed by H2O (2.9 mL, 161 mmol, 17.8 equiv) and the suspension was stirred for 3 h, then was filtered and the filtrate was concentrated in vacuo. The crude product was purified by column chromatography (SiO2, pentane) and Kugelrohr distillation to afford 1.35 g (82%) of (Z)-1 as a colorless oil.

reactant | DIBAL-H | 10.7 mmol, 1.93 mL, 1.52 g, 1.2 equiv | CC(C)C[AlH]CC(C)C
reactant | 1-(1-hexynyl)-1-methylsilacyclobutane | 9,0 mmol, 1.62 g | C(#CCCCC)[Si]1(CCC1)C | C10H18Si
reactant | NaF | 76.4 mmol, 3.21 g, 8.5 equiv | [F-].[Na+]
reactant | H2O | 161 mmol, 2.9 mL, 17.8 equiv | O | H2O
solvent | hexane | 14 mL | CCCCCC | C6H14
solvent | Et2O | 9 mL | CCOCC | C4H10O
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
product | (Z)-1-(1-Heptenyl)-1-methylsilacyclobutane | C(=C/CCCCC)/[Si]1(CCC1)C | C11H22Si
